US08859550B2
8-(4-Methylpiperazin-1-yl)tetrazolo[1,5-a]pyrazine
8-Chlorotetrazolo[1,5-a]pyrazine (100 g, 0.643 mol, 1 eq.) was suspended in methylene chloride (650 ml) and cooled to 3-7° C. under nitrogen. 1-Methylpiperazine (156 g, 1.56 mol, 2.42 eq) was added at such a rate that the temperature of the reaction mixture was maintained at 3-7° C. The mixture is stirred at approximately 10° C. for 15 minutes after which time conversion to product was ≧99%. Celite 545 (40 g) and water (260 g) were added and the pH of the suspension adjusted to 9.5-9.8 by the addition of 27% sodium hydroxide, with the temperature maintained range at 3-7° C. The suspension was filtered on a pad of Celite 545, and the filter cake washed with methylene chloride. The filtrate was separated into an organic and aqueous phase. The aqueous phase was washed with methylene chloride. The organic phases are washed twice with aqueous sodium hydroxide. The organic phases were combined, and dried over magnesium sulfate prior to addition of activated carbon (pH 8-10). The mixture was filtered on a pad of Celite 545 and the filtered cake washed with methylene chloride. The filtrate was concentrated at reduced pressure and crystallization induced by slow addition of heptane, with further concentration and seeding as necessary. The resulting crystal suspension is cooled to 10-15° C., filtered, washed with n-heptane and dried under vacuum at 27-33° C. to afford the product as a buff coloured solid (114.6 g, 81% yield).

reactant | 8-Chlorotetrazolo[1,5-a]pyrazine | 0.643 mol, 100 g, 1 eq. | ClC=1C=2N(C=CN1)N=NN2 | C4H2ClN5
reactant | 1-Methylpiperazine | 1.56 mol, 156 g, 2.42 eq | CN1CCNCC1 | C5H12N2
reactant | Celite 545 | 40 g | O=[Si]=O | O2Si
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 650 ml | C(Cl)Cl | CH2Cl2
solvent | water | 260 g | O | H2O
product | 8-(4-Methylpiperazin-1-yl)tetrazolo[1,5-a]pyrazine | 114.6 g, 81% yield | CN1CCN(CC1)C=1C=2N(C=CN1)N=NN2 | C9H13N7
